US05256679
A mixture of S-methyl-N-nitroisothiourea (5.0 g), CH3CN (50 ml) and Et3N (11.2 g) was cooled with iced water. To the cooled mixture was added 10.6 g of n-propanesulfonyl chloride dropwise below 15° C. under stirring. After stirring at the same temperature for 1 hour, the mixture was poured into a mixed solution of conc. hydrochloric acid (20 ml) and water (180 ml) and the resulting mixture was extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated in vacuo to afford 9.9 g of crude crystals. Recrystallization of the product from CCl4 (5 ml) gave 5.4 g of S-methyl-N-nitro-N'-(n-propanesulfonyl)isothiourea as a pale yellow crystal, m.p. 91°-93° C.

reactant | S-methyl-N-nitroisothiourea | 5.0 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | CH3CN | 50 ml | CC#N | C2H3N
reactant | n-propanesulfonyl chloride | 10.6 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 180 ml | O | H2O
solvent | Et3N | 11.2 g | CCN(CC)CC | C6H15N
product | S-methyl-N-nitro-N'-(n-propanesulfonyl)isothiourea | 5.4 g | CSC(N[N+](=O)[O-])=NS(=O)(=O)CCC | C5H11N3O4S2
